US07179801B2
To a solution of 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propanol (4.0 g, 10 mmol), phthalimide (1.5 g, 10 mmol) and triphenylphosphine (4.0 g, 15 mmol) in tetrahydrofuran (20 ml) was added diisopropyl azodicarboxylate (3.0 g, 15 mmol), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added 4 mol/l hydrogen chloride solution in dioxane (10 ml), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added water, and the mixture was washed with ethyl acetate. The organic layer was separated, and the aqueous layer was adjusted to pH 9 with 10% aqueous sodium carbonate solution. The solution was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with ethyl acetate and dried in vacuo to give 5-amino-1-methyl-4-(3-phthalimidopropyl)pyrazole (2.2 g) as a solid.

reactant | 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propanol | 10 mmol, 4.0 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCO | C26H27N3O
reactant | phthalimide | 10 mmol, 1.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 15 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15 mmol, 3.0 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrogen chloride | 4 mol/l | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-amino-1-methyl-4-(3-phthalimidopropyl)pyrazole | 2.2 g | NC1=C(C=NN1C)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H16N4O2
